US04616023
In a manner similar to that described in the preceding examples, 0.5 gram (13 millimoles) of sodium borohydride was added to a solution of 1 gram (43 millimoles) of 10,11-dihydro-3-methoxy-5H-dibenzo[a,d]cyclohepten-5-one in 20 milliliters of ethanol with an added drop of 40 percent sodium hydroxide solution and the mixture heated overnight to obtain 10,11-dihydro-3-methoxy-5H-dibenzo[a,d]cyclohepten-5-ol (5-hydroxy intermediate compound) in the reaction mixture.

reactant | sodium borohydride | 13 millimoles, 0.5 gram | [BH4-].[Na+]
reactant | 10,11-dihydro-3-methoxy-5H-dibenzo[a,d]cyclohepten-5-one | 43 millimoles, 1 gram | COC=1C=CC2=C(C(C3=C(CC2)C=CC=C3)=O)C1 | C16H14O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 20 milliliters | C(C)O | C2H6O
product | 10,11-dihydro-3-methoxy-5H-dibenzo[a,d]cyclohepten-5-ol | COC=1C=CC2=C(C(C3=C(CC2)C=CC=C3)O)C1 | C16H16O2
